US07385082B2
1-[4-hexyloxyphenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one (Compound 10)
This compound was synthesized from 4-hexyloxyacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described hereinabove. The product crystallized at the end of the reaction and was dried. Yield: 63%

reactant | 4-hexyloxyacetophenone | CCCC(CC)OCC(=O)C1=CC=CC=C1 | C14H20O2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-[4-hexyloxyphenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one | Yield: 63% | C(CCCCC)OC1=CC=C(C=C1)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C23H28O3
